US08809369B2
To a stirred solution of 4-amino-N-cyclobutyl-benzenesulfonamide (2.8 g, 12.4 mmol) and 3-bromo-benzaldehyde (2.52 g, 13.6 mmol) in acetonitrile (150 mL) were added isobutene (2.7 mL, 37.2 mmoll) and ytterbium(III) trifluoromethanesulfonate (Yb(OTf)3) (1.54 g, 2.5 mmol). The resulting mixture was stirred at 80° C. for 18 h in sealed tube. The mixture solution was diluted with ethyl acetate (300 mL) and washed with water (100 mL×2) and brine (100 mL×2) and then dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 10-40% ethyl acetate in petroleum ether) to afford 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide (2.2 g, 40%) as a light yellow solid: MS (ESI) M+1=449.0 & 451.0.

reactant | 4-amino-N-cyclobutyl-benzenesulfonamide | 12.4 mmol, 2.8 g | NC1=CC=C(C=C1)S(=O)(=O)NC1CCC1 | C10H14N2O2S
reactant | 3-bromo-benzaldehyde | 13.6 mmol, 2.52 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | isobutene | 2.7 mL | C=C(C)C | C4H8
reactant | ytterbium(III) trifluoromethanesulfonate | 2.5 mmol, 1.54 g | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide | 2.2 g, 40% | C1(CCC1)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)Br)(C)C | C21H25BrN2O2S
